US06153611
2{{4-[4-(4-Fluorophenyl)-3-cyclohexen-1-yl]-1-piperazinyl]methyl]quinoline
A mixture of 2-chloromethylquinoline (4.7 mmole), and 1-[4-(4-fluorophenyl)-3-cyclohexen-1-yl]piperazine (4.7 mmole) and excess powdered K2CO3 was heated at reflux for 18 hr. The insolubles were removed by filtration, the solution concentrated in vacuo, and the residue crystallized from hexane to give the product (53%, mp: 111-114° C.). Calc'd for C26H28FN3: C, 77.78%; H, 7.03%; N, 10.47%. Found: C, 77.61; H, 6.91%; N, 10.72%.

reactant | 2-chloromethylquinoline | 4.7 mmole | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | 1-[4-(4-fluorophenyl)-3-cyclohexen-1-yl]piperazine | 4.7 mmole | FC1=CC=C(C=C1)C1=CCC(CC1)N1CCNCC1 | C16H21FN2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 2{{4-[4-(4-Fluorophenyl)-3-cyclohexen-1-yl]-1-piperazinyl]methyl]quinoline | 53% | FC1=CC=C(C=C1)C1=CCC(CC1)N1CCN(CC1)CC1=NC2=CC=CC=C2C=C1 | C26H28FN3
